US06172085B2
2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(3-phenylpropyl)-1-piperidinyl]methyl]-5-benzofuranamine
Using 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine and 4-(3-phenylpropyl)piperidine, the procedure of Example 1 was otherwise repeated to provide the title compound.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 4-(3-phenylpropyl)piperidine | C1(=CC=CC=C1)CCCC1CCNCC1 | C14H21N
product | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(3-phenylpropyl)-1-piperidinyl]methyl]-5-benzofuranamine | Yield 42% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCC(CC2)CCCC2=CC=CC=C2 | C27H38N2O
